US04665181
Cis-6-[2-(4-Dimethylaminophenyl)ethenyl]-1(2H)-phthalazinone
4-dimethylaminobenzaldehyde (9 gm) in DMSO (30 ml) was added to a solution of 1-oxo-2H-phthalazin-6-ylmethyl triphenylphosphonium bromide (0.04 mole) in DMSO (100 ml) and stirred overnight at room temperature. The reaction mixture was added to water (1 L), stirred, and the precipitate was filtered to give a solid. The solid was air dried, slurried with acetone (200 ml) and filtered and dried to give a mixture of cis and trans isomers (9.9 gm). The solid was recrystallized from DMF (65 ml) and filtered to give pure cis product (4.8 gm), mp=312°-318° C.

reactant | 4-dimethylaminobenzaldehyde | 9 gm | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1-oxo-2H-phthalazin-6-ylmethyl triphenylphosphonium bromide | 0.04 mole | [Br-].O=C1NN=CC2=CC(=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | water | 1 L | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | Cis-6-[2-(4-Dimethylaminophenyl)ethenyl]-1(2H)-phthalazinone | 4.8 gm | CN(C1=CC=C(C=C1)\C=C/C=1C=C2C=NNC(C2=CC1)=O)C | C18H17N3O
